US04638000
In 100 ml of acetonitrile are dissolved 1.7 g of tert-butyl 3(R)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate and 2.4 g of ethyl 2-bromo-10-phthalimidodecanoate, and 0.75 g of triethylamine is added to the solution. The mixture is heated at 80° C. for 3 days, concentrated under reduced pressure, diluted with 100 ml of water and extracted with 150 ml of ethyl acetate. The ethyl acetate layer is dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting oily substance is separated and purified by silicagel column chromatography (hexane:ethyl acetate=3:1 - 2:1) to give from the first fraction 0.9 g of tert-butyl 3(R)-[1(R)-ethoxycarbonyl-9-phthalimidononyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate as a colorless oil.

reactant | tert-butyl 3(R)-amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 1.7 g | N[C@H]1CSC2=C(N(C1=O)CC(=O)OC(C)(C)C)C=CC=C2 | C15H20N2O3S
reactant | ethyl 2-bromo-10-phthalimidodecanoate | 2.4 g | BrC(C(=O)OCC)CCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C20H26BrNO4
reactant | triethylamine | 0.75 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | tert-butyl 3(R)-[1(R)-ethoxycarbonyl-9-phthalimidononyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 0.9 g | C(C)OC(=O)[C@@H](CCCCCCCCN1C(C=2C(C1=O)=CC=CC2)=O)N[C@H]2CSC1=C(N(C2=O)CC(=O)OC(C)(C)C)C=CC=C1 | C35H45N3O7S
